US06855710B2
(Z)-3-{1-[4-(2-(N-(2-hydroxyethyl)-N-ethyl-amino)-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 89 from 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and {4-[2-(N-(2-hydroxyethyl)-N-ethyl-amino)-ethyl]-phenylamino}-aniline in DMF.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | {4-[2-(N-(2-hydroxyethyl)-N-ethyl-amino)-ethyl]-phenylamino}-aniline | OCCN(CC)CCC1=CC=C(C=C1)NNC1=CC=CC=C1 | C18H25N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(2-(N-(2-hydroxyethyl)-N-ethyl-amino)-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | OCCN(CC)CCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C27H28N4O4
